US07067667B2
7-(N-tert-Butoxycarbonyl-3-chlorobenzylamino)methyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione
A solution of 75 mg (0.17 mmol) of 7-(N-tert-butoxycarbonyl-3-chlorobenzyl-amino)methyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 5 ml of 1,2-dimethoxyethane is mixed with 138 mg (0.34 mmol) of Lawesson's reagent. After 1.5 hours at room temperature, the batch is refluxed for 0.75 hour and then concentrated by evaporation in a vacuum. Column chromatography on silica gel with hexane-ethyl acetate yields 65 mg of product.

reactant | 7-(N-tert-butoxycarbonyl-3-chlorobenzyl-amino)methyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.17 mmol, 75 mg | C(C)(C)(C)OC(=O)N(CC1=CC(=CC=C1)Cl)CC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C25H29ClN2O3
reactant | Lawesson's reagent | 0.34 mmol, 138 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | 7-(N-tert-Butoxycarbonyl-3-chlorobenzylamino)methyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 65 mg | C(C)(C)(C)OC(=O)N(CC1=CC(=CC=C1)Cl)CC=1C=CC=2C3C(C(NC2C1)=S)CCC3 | C25H29ClN2O2S
